US09260375B2
To a solution of 2-[4-(hydroxymethyl)benzyl]-3-isopropylmaleic anhydride (101 mg, 0.388 mmol) in a mixed solvent of methanol (1.0 mL) and tetrahydrofuran (1.0 mL) was added a 2.0 M trimethylsilyl diazomethane-hexane solution (1.0 mL, 2.0 mmol) with stirring under ice cooling. The reaction mixture was stirred at room temperature for 2 h and directly concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography (toluene-ethyl acetate 4:1→3:1) to give 96 mg of dimethyl 2-[4-(hydroxymethyl)benzyl]-3-isopropylmaleate as oil (yield: 81%).

reactant | 2-[4-(hydroxymethyl)benzyl]-3-isopropylmaleic anhydride | 0.388 mmol, 101 mg | OCC1=CC=C(C/C=2/C(=O)OC(\C2\C(C)C)=O)C=C1 | C15H16O4
reactant | methanol | 1.0 mL | CO | CH4O
reactant | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
reactant | trimethylsilyl diazomethane hexane | 2.0 mmol, 2.0 M, 1.0 mL | C[Si](C)(C)C=[N+]=[N-].CCCCCC
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | dimethyl 2-[4-(hydroxymethyl)benzyl]-3-isopropylmaleate | 96 mg, yield: 81% | OCC1=CC=C(C/C(/C(=O)OC)=C(/C(=O)OC)\C(C)C)C=C1 | C17H22O5
